US04835306
A--Preparation of 4-chloro-3-nitrobenzoic acid
To a 2-liter, 3-necked, round-bottom flask is added 680 ml of concentrated H2SO4 and 400 g of p-chlorobenzoic acid. The mixture is stirred and brought to 0° C. by means of a constant temperature bath. A solution of concentrated HNO3 (216 ml) and concentrated H2SO4 (216 ml) is added dropwise to the reaction mixture at such a rate as to maintain the temperature between 10° C. and 25° C. Upon completion of the addition, the reaction temperature is raised to 37° C. and the mixture is allowed to stir for a period of 10-14 hours. The reaction mixture is then poured over crushed ice and the product, 4-chloro-3-nitrobenzoic acid, is filtered and dried, having a yield of 525.7 g or 98.7 percent with a melting point of 178° C.-180° C. This material is used without further purification.

reactant | p-chlorobenzoic acid | 400 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | HNO3 | 216 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 680 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 216 ml | OS(=O)(=O)O | H2O4S
product | 4-chloro-3-nitrobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
